US03975537
A mixture of 27 g. (0.18 mol.) of 5-chlorobenzofuran, 28.5 g. (0.18 mol.) of butyric anhydride, 18 g. (0.20 mol.) of butyric acid and 5 g. (0.05 mol.) of phosphoric acid wasa refluxed for four hours then stirred at 25° for 12 hours. The reaction mixture was made basic with 10% aqueous sodium hydroxide, chloroform was added to the mixture and the layers were separated. The organic phase was washed with water, dried MgSO4) and concentrated in vacuo to give 2-butyryl-5-chlorobenzofuran.

reactant | 5-chlorobenzofuran | 0.18 mol | ClC=1C=CC2=C(C=CO2)C1 | C8H5ClO
reactant | butyric anhydride | 0.18 mol | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | butyric acid | 0.20 mol | C(CCC)(=O)O | C4H8O2
reactant | phosphoric acid | 0.05 mol | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-butyryl-5-chlorobenzofuran | C(CCC)(=O)C=1OC2=C(C1)C=C(C=C2)Cl | C12H11ClO2
